US04929693
In 100 ml of ethanol, 9.2 g (53 mmol) of 1,3,3-trimethyl-2-methyleneindoline and 10 g (53 mmol) of 1-nitroso-2,7-dihydroxynaphthalene were dissolved and the solution was heated to reflux for 3 hours. After removing the solvent, recrystallization was conducted using benzene to obtain 4.5 g of 1,3,3-trimethyl-9'-hydroxyspiro[indoline-2,3'-[3H]-naphtho[2,1-b] (1,4)oxazine] in the form of green-white solid. In 50 ml of methylene dichloride, 1.5 g (4.4 mmol) of the thus obtained spirooxazine compound was dissolved and 0.6 g (6 mmol) of the methacrylic acid chloride was added dropwise at room temperature and the mixture was allowed to react. After removal of the solvent, purification by column chromatography and recrystallization from methanol was conducted to obtain 1.2 g of 1,3,3-trimethyl-9'-methacryloxyspiro[indoline-2,3'-[3H]-naphtho-[2,1-b] (1,4)oxazine] as white solid.

reactant | 1,3,3-trimethyl-2-methyleneindoline | 53 mmol, 9.2 g | CN1C(C(C2=CC=CC=C12)(C)C)=C | C12H15N
reactant | 1-nitroso-2,7-dihydroxynaphthalene | 53 mmol, 10 g | N(=O)C1=C(C=CC2=CC=C(C=C12)O)O | C10H7NO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1,3,3-trimethyl-9'-hydroxyspiro[indoline-2,3'-[3H]-naphtho[2,1-b] (1,4)oxazine] | 4.5 g | CN1C2=CC=CC=C2C(C12C=NC1=C(O2)C=CC2=CC=C(C=C21)O)(C)C | C22H20N2O2
